US04668279
3-Nitro-2-(1H-1,2,4-triazol-1yl)pyridine
A solution of 10 g of 2-chloro-3-nitropyridine dissolved in 30 ml of dry DMF was added dropwise to a suspension containing 6.9 g of 1,2,4-triazole sodium salt (90%, Aldrich Chemical Co.) in 40 ml of dry DMF. After a slow exotherm had subsided, the suspension was heated at 60° for three hours then cooled to 25° C. and poured onto 500 ml of ice-water to yield a precipitate. After the mixture was filtered, the isolated solid was washed 2×50 ml of water and suction-dried to yield 12 g of crude product. The product was recrystallized from 2-propanol to yield 8 g of the subject compound; m.p. 131°-133°.

reactant | 2-chloro-3-nitropyridine | 10 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 1,2,4-triazole sodium salt | 6.9 g | [Na].N1N=CN=C1
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-Nitro-2-(1H-1,2,4-triazol-1yl)pyridine | 8 g | [N+](=O)([O-])C=1C(=NC=CC1)N1N=CN=C1 | C7H5N5O2
